US07935722B2
N-[8-Chloro-6-cyano-9-(3-fluoro-benzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide
Prepare the title compound by essentially following the procedure as described in Example 96 with N-(8-chloro-6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide (Preparation 18) and 3-fluorobenzyl bromide, to obtain the title compound as a white solid in 10% yield. MS (ES): 424 (M+1), 422 (M−1); HPLC (Method A): Rt=3.18 (92%).

reactant | N-(8-chloro-6-cyano-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-isobutyramide | ClC=1C=C(C=C2C=3CC(CCC3NC12)NC(C(C)C)=O)C#N | C17H18ClN3O
reactant | 3-fluorobenzyl bromide | FC=1C=C(CBr)C=CC1 | C7H6BrF
product | N-[8-Chloro-6-cyano-9-(3-fluoro-benzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-isobutyramide | 10% yield | ClC=1C=C(C=C2C=3CC(CCC3N(C12)CC1=CC(=CC=C1)F)NC(C(C)C)=O)C#N | C24H23ClFN3O
